US08912200B2
Step 4: 5-(2-Amino-5-iodo-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxamide (VIII)
Crude 5-(2-amino-5-iodo-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylic acid (691 mg, 1.52 mmol) in DMF (5 mL) and DIPEA (1.06 mL, 6.08 mmol) was stirred at 0° C. EDCl (582 mg, 3.04 mmol) and HOBT.NH3 (469 mg, 3.04 mmol) were added and the reaction mixture was stirred for 2 h at room temperature. The reaction mixture was poured into saturated solution of sodium hydrogen carbonate. The solid was filtered with suction and the panel washed thoroughly with water and dried under vacuum in an oven at 50° C. The crude compound may be purified by flash chromatography (DCM/MeOH 95/5) to give the title compound (518 mg, 75%).

reactant | 5-(2-amino-5-iodo-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylic acid | 1.52 mmol, 691 mg | NC1=NC=C(C(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)O)I | C16H12ClIN4O2
reactant | DIPEA | 6.08 mmol, 1.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | 3.04 mmol, 582 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 3.04 mmol, 469 mg | N | H3N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(2-Amino-5-iodo-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxamide | 518 mg, 75% | NC1=NC=C(C(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)N)I | C16H13ClIN5O
